US05578627
To a solution of 0.91 g of 5-chloro-3-[2-tritylamino-3-(1-trityl-4-imidazolyl)propoxy]-1,2-benzoisoxazole in 2 ml of methylene chloride is added 2.2 ml of a 2-propanol solution (6.5M) of hydrogen chloride at room temperature, and they are subjected to reaction at the same temperature for 24 hours, after which the solvent is removed by distillation under reduced pressure. Diisopropyl ether is added to the residue obtained and the crystals precipitated are collected by filtration, to obtain 0.4 g of colorless, crystalline 3-[2-amino-3-(4-imidazolyl)propoxy]-5-chloro-1,2-benzoisoxazole dihydrochloride having a melting point of 246.0°-248.4° C. (decomp.).

reactant | 5-chloro-3-[2-tritylamino-3-(1-trityl-4-imidazolyl)propoxy]-1,2-benzoisoxazole | 0.91 g | ClC=1C=CC2=C(C(=NO2)OCC(CC=2N=CN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C1 | C51H41ClN4O2
reactant | 2-propanol | 6.5M, 2.2 ml | CC(C)O | C3H8O
reactant | hydrogen chloride | Cl | ClH
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 3-[2-amino-3-(4-imidazolyl)propoxy]-5-chloro-1,2-benzoisoxazole dihydrochloride | Cl.Cl.NC(COC1=NOC2=C1C=C(C=C2)Cl)CC=2N=CNC2 | InChI=1S/C13H13ClN4O2.2ClH/c14-8-1-2-12-11(3-8)13(18-20-12)19-6-9(15)4-10-5-16-7-17-10;;/h1-3,5,7,9H,4,6,15H2,(H,16,17);2*1H
